US04786646
A suspension of 7.0 g of sodium hydride (60% dispersion in oil) in 75 mL of dry dimethylsulfoxide was stirred at 75° C. under argon for 45 minutes, at which time the evolution of hydrogen had ceased. After the solution was cooled, 61 g of methyltriphenylphosphonium bromide was added and the mixture was stirred at room temperature for 30 minutes before the addition of 25 g of 5-(3-pyridinyl)-2-pentanone in 125 mL of dimethylsulfoxide. The reaction was then stirred at room temperature overnight. After the addition of 1 L of 1N hydrochloric acid solution, the precipitated triphenylphosphine oxide was removed by filtration, and the filtrate was basified with 110 mL of 10N sodium hydroxide. The product was extracted with dichloromethane (4×300 ml) and the extracts were washed with brine, then were combined, dried (K2CO3) and evaporated to give 25 g of crude product. The material was purified by HPLC (ethyl acetate:hexane: 1:1) to yield 17.5 g of 3-(4-methyl-4-pentenyl)pyridine as a colorless oil.

reactant | sodium hydride | 7.0 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-(3-pyridinyl)-2-pentanone | 25 g | N1=CC(=CC=C1)CCCC(C)=O | C10H13NO
reactant | hydrochloric acid | 1N, 1 L | Cl | ClH
reactant | dimethylsulfoxide | 75 mL | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 125 mL | CS(=O)C | C2H6OS
catalyst | methyltriphenylphosphonium bromide | 61 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(4-methyl-4-pentenyl)pyridine | 17.5 g | CC(CCCC=1C=NC=CC1)=C | C11H15N
